US08604069B2
(A-53-8) N-Methoxy-N-methyl-3-(2,2-dimethylpropyl)cyclobutanecarboxamide
3-(2,2-Dimethylpropyl)cyclobutanecarboxylic acid (75.2 g) and DMF (600 mL) were mixed. After an addition of N,O-dimethylhydroxylamine hydrochloride (51.7 g), triethylamine (92.4 mL), HOBt.H2O (81.2 g) and WSC.HCl (101.6 g) to the mixture, the mixture was stirred at RT overnight. Water was poured into the reaction and the mixture was extracted with ethyl acetate/hexane=1/1. The organic layer was washed with 1 N hydrochloric acid, water, aqueous 10 w/v % sodium carbonate and water, then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (95.2 g) as a crude product.

reactant | 3-(2,2-Dimethylpropyl)cyclobutanecarboxylic acid | 75.2 g | CC(CC1CC(C1)C(=O)O)(C)C | C10H18O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 51.7 g | Cl.CNOC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 101.6 g | CCN=C=NCCCN(C)C.Cl
solvent | Water | O | H2O
solvent | H2O | 81.2 g | O | H2O
solvent | triethylamine | 92.4 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | N-Methoxy-N-methyl-3-(2,2-dimethylpropyl)cyclobutanecarboxamide | 95.2 g | CON(C(=O)C1CC(C1)CC(C)(C)C)C | C12H23NO2
